US08580957B2
A flask was charged with 4-bromopyridine hydrochloride (61.8 mg, 0.318 mmol), (cis)-1-acetyl-2-methyl-6-[4-(1-piperidinylmethyl)phenyl]-1,2,3,4-tetrahydro-4-quinolinamine (for a preparation see Intermediate 25) (100 mg, 0.265 mmol), racemic BINAP (8.25 mg, 0.013 mmol), sodium tert-butoxide (30.5 mg, 0.318 mmol) and tris(dibenzylideneacetone)dipalladium(0) (12.13 mg, 0.013 mmol) then filled with toluene (2.5 mL). The resulting mixture was stirred at 110° C. under nitrogen for 20 h then cooled to room temperature. An extra 1.2 equivalent of 4-bromopyridine hydrochloride (60 mg) and sodium tert-butoxide (30 mg) were added as well as racemic BINAP (0.05 equivalent, 8 mg) and the resulting mixture was stirred at 110° C. for 5 h. After the mixture was cooled to room temperature, a further 1.2 eq of bromopyridine (62 mg) was added and the reaction mixture stirred at 110° C. for 16 h then cooled to room temperature. An extra 0.05 eq of racemic BINAP (8 mg) and tris(dibenzylideneacetone)dipalladium(0) (12 mg) were added and the resulting mixture stirred at 110° C. for 5 h then cooled to room temperature and loaded onto a 5 g SCX column then eluted with MeOH (2 column volume (CV)) followed by 2M NH3 in MeOH (4 CV). The ammonia fractions were combined and concentrated in vacuo. Purification of the residue by MDAP (modifier: trifluoroacetic acid) gave cis-1-acetyl-2-methyl-6-[4-(1-piperidinylmethyl)phenyl]-N-4-pyridinyl-1,2,3,4-tetrahydro-4-quinolinamine (22 mg, 0.037 mmol, 13.88% yield).

reactant | 4-bromopyridine hydrochloride | 0.318 mmol, 61.8 mg | Cl.BrC1=CC=NC=C1
reactant | (cis)-1-acetyl-2-methyl-6-[4-(1-piperidinylmethyl)phenyl]-1,2,3,4-tetrahydro-4-quinolinamine | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C=C1)CN1CCCCC1)N)C | C24H31N3O
reactant | BINAP | 0.013 mmol, 8.25 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 0.318 mmol, 30.5 mg | CC(C)([O-])C.[Na+]
reactant | 4-bromopyridine hydrochloride | 60 mg, 1.2 equivalent | Cl.BrC1=CC=NC=C1
reactant | sodium tert-butoxide | 30 mg | CC(C)([O-])C.[Na+]
reactant | BINAP | 8 mg, 0.05 equivalent | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | bromopyridine | 62 mg, 1.2 eq | BrC1=NC=CC=C1 | C5H4BrN
reactant | BINAP | 8 mg, 0.05 eq | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.013 mmol, 12.13 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 12 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
product | cis-1-acetyl-2-methyl-6-[4-(1-piperidinylmethyl)phenyl]-N-4-pyridinyl-1,2,3,4-tetrahydro-4-quinolinamine | 0.037 mmol, 22 mg, 13.88% yield | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C=C1)CN1CCCCC1)NC1=CC=NC=C1)C | C29H34N4O
